US07129238B2
In analogy to example 16.4, 2-fluoro-4-hydroxy-benzaldehyde (CAS-No: 348-27-6) was alkylated with benzylbromide/potassium carbonate in DMF to give 4-benzyloxy-2-fluoro-benzaldehyde. Off-white solid. MS 230.1 ([M+H]+)

reactant | 2-fluoro-4-hydroxy-benzaldehyde | FC1=C(C=O)C=CC(=C1)O | C7H5FO2
reactant | benzylbromide potassium carbonate | C(C1=CC=CC=C1)Br.C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-benzyloxy-2-fluoro-benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)F | C14H11FO2
